US09428528B2
Step 2 Preparation of N-((5-(4-((4S,5R)-3-(2,2-dichloroacetyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)phenyl)pyridin-2-yl)methyl)-ethanesulfonamide
2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(trimethylstannyl)-phenyl)-oxazolidin-3-yl)ethanone (281 mg, 0.66 mmol) and N-((5-bromopyridin-2-yl)methyl)ethanesulfonamide (155 mg, 0.56 mmol) are dissolved in N-Methyl-2-pyrrolidone (40 mL) and purged with nitrogen gas. Pd2(dba)3 (51 mg, 0.055 mmol) and tri-2-furylphosphine (27 mg, 0.11 mmol) are added; the resulting mixture is heated to 80° C. for 18 hours. The reaction mixture is cooled, diluted with ethylacetate, and washed with water. The organic phase is dried (Na2SO4) and concentrated under vacuum. The crude material is chromatographed (24 g Redi-Sep column) eluting from 100% hexanes to 90:10 ethylacetate:hexanes to afford the title compound (125 mg): m/z (CI) M+H 518.

reactant | 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(trimethylstannyl)-phenyl)-oxazolidin-3-yl)ethanone | 0.66 mmol, 281 mg | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)[Sn](C)(C)C)(C)C)Cl
reactant | N-((5-bromopyridin-2-yl)methyl)ethanesulfonamide | 0.56 mmol, 155 mg | BrC=1C=CC(=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | tri-2-furylphosphine | 0.11 mmol, 27 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N-Methyl-2-pyrrolidone | 40 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | Pd2(dba)3 | 0.055 mmol, 51 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-((5-(4-((4S,5R)-3-(2,2-dichloroacetyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)phenyl)pyridin-2-yl)methyl)-ethanesulfonamide | 125 mg | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)CNS(=O)(=O)CC)(C)C)Cl | C22H26Cl2FN3O4S
